US05175167
6.0 g (0.15 mol) of sodium hydroxide were added to a solution of 160.5 g (1.5 mol) of pyridine-3-carbaldehyde in 750 ml of methanol. Thereafter, 150.0 g (1.5 mol) of hexanal were added dropwise in the course of 3 hours at room temperature. Stirring was carried out for 1 hour, the pH was brought to 6 with acetic acid and the solvent was then evaporated under reduced pressure. The residue was taken up in a water/dichloromethane mixture and the organic phase was washed with water, dried over sodium sulfate and evaporated down under reduced pressure. Distillation gave 190 g (67% of theory) of E-2-(3-pyridylmethylidene)-hexanal as a yellow oil of boiling point 132°-134° C./2 mbar.

reactant | sodium hydroxide | 0.15 mol, 6.0 g | [OH-].[Na+]
reactant | pyridine-3-carbaldehyde | 1.5 mol, 160.5 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | hexanal | 1.5 mol, 150.0 g | C(CCCCC)=O | C6H12O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 750 ml | CO | CH4O
product | E-2-(3-pyridylmethylidene)-hexanal | 190 g, 67% | N1=CC(=CC=C1)\C=C(\C=O)/CCCC | C12H15NO
